US07358268B2
(ii) 3-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-2-iodo-5-methyl-3H-imidazole-4-carboxylic acid ethyl ester
To a solution of 500 mg 2-Iodo-5-methyl-3H-imidazole-4-carboxylic acid ethyl ester in 2 ml DMF 1.1 g caesium carbonate and 547 mg 3-Bromomethyl-5-(5-chloro-thiophen-2-yl)-isoxazole [prepared by adopting a procedure described by Ewing, William R.; Becker, Michael R.; Choi-Sledeski, Yong Mi; Pauls, Heinz W.; He, Wei; Condon, Stephen M.; Davis, Roderick S.; Hanney, Barbara A.; Spada, Alfred P.; Burns, Christopher J.; Jiang, John Z.; Li, Aiwen; Myers, Michael R.; Lau, Wan F.; Poli, Gregory B; PCT Int. Appl. (2001), 460 pp. WO 0107436 A2] were added and the mixture was stirred for 2 h at RT. After addition of 5 ml water the mixture was filtered through a chem elut® cartridge by elution with ethyl acetate and then concentrated under reduced pressure. The residue was directly subjected to the subsequent saponification reaction without further purification. Yield: 630 mg.

reactant | 2-Iodo-5-methyl-3H-imidazole-4-carboxylic acid ethyl ester | 500 mg | C(C)OC(=O)C=1NC(=NC1C)I | C7H9IN2O2
reactant | 3-Bromomethyl-5-(5-chloro-thiophen-2-yl)-isoxazole | 547 mg | BrCC1=NOC(=C1)C=1SC(=CC1)Cl | C8H5BrClNOS
reactant | water | 5 ml | O | H2O
solvent | DMF | 2 ml, 1.1 g | CN(C)C=O | C3H7NO
product | 3-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-2-iodo-5-methyl-3H-imidazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(C(=NC1C)I)CC1=NOC(=C1)C=1SC(=CC1)Cl | C15H13ClIN3O3S
